* D:\Repositorios Git\SRA\Lab 3\Circ 1 - VFA-VFA\Lab_3_Circ_1-Respuesta al impulso.asc
V_CC Vcc 0 10
V_SS 0 Vss 10
XAO1 V1 N001 Vcc Vss VO_1 LM324
XAO2 VO_1 N002 Vcc Vss VO_2 LM324
Rf VO_2 N001 90k
Ri N001 0 10k
R2 VO_2 N002 12k
R1 0 N002 10k
V_in V1 0 PULSE(0 .01 1e-6 1e-12 0 10 0 1)
.lib LM324.lib
* Librerías:
* Polarizacion:
* Señales de entrada:
.tran 5e-6
.backanno
.end
